US06087380
1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(hydroxycarbonylmethyl)-amide-hydrochloride
Prepared analogously to Example 26 from 1-methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride and sodium hydroxide solution. Yield: 85% of theory, C24H22N6O4 (458.5) ##EQU26##

reactant | 1-methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(hydroxycarbonylmethyl)-amide-hydrochloride | Yield: 85% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)O | InChI=1S/C24H22N6O4.ClH/c1-29-19-10-7-16(24(33)30(13-22(31)32)20-4-2-3-11-27-20)12-18(19)28-21(29)14-34-17-8-5-15(6-9-17)23(25)26;/h2-12H,13-14H2,1H3,(H3,25,26)(H,31,32);1H
